US07939661B2
Step 2: Piperidin-4-yl-pyrimidin-5-yl-amine dihydrochloride
A solution of 4-(pyrimidin-5-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.30 g, 4.67 mmol) in 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 179.1 [M+H]+.

reactant | 4-(pyrimidin-5-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.67 mmol, 1.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC=NC1 | C14H22N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-pyrimidin-5-yl-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1C=NC=NC1 | InChI=1S/C9H14N4.2ClH/c1-3-10-4-2-8(1)13-9-5-11-7-12-6-9;;/h5-8,10,13H,1-4H2;2*1H
